US20010001799A1
2.76 ml of 2-bromoethanol and 5.40 g of potassium carbonate were added to a solution of 5 g of 3-ethoxy-4-hydroxybenzaldehyde in 150 ml of DMF. The reaction mixture was heated to 70° C. overnight and subsequently to 120° C. for a further 4 hrs. Then, the mixture was left to cool to room temperature, filtered and concentrated in a high vacuum. The crude product was isolated by extraction and purified by chromatography on silica gel. There were obtained 6.09 g of 3-ethoxy-4-(2-hydroxy-ethoxy)-benzaldehyde as a white solid.

reactant | 2-bromoethanol | 2.76 ml | BrCCO | C2H5BrO
reactant | potassium carbonate | 5.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 5 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-ethoxy-4-(2-hydroxy-ethoxy)-benzaldehyde | 6.09 g | C(C)OC=1C=C(C=O)C=CC1OCCO | C11H14O4
